US07842688B2
c) (3-Fluoro-2-hydroxyphenyl)acetonitrile
A solution of 4.89 g of 2-fluoro-6-hydroxymethylphenol and 2.08 g of sodium cyanide in 120 ml of N,N-dimethylformamide is stirred at 120° C. over 24 hours. The reaction mixture is cooled, diluted with water and concentrated by evaporation. The residue is diluted with water and neutralized with conc. acetic acid (caution! hydrocyanic acid). The mixture is extracted with dichloromethane (3×). The combined organic phases are washed with water and brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a violet solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.32 (1:2 EtOAc-heptane); Rt=3.12.

reactant | 2-fluoro-6-hydroxymethylphenol | 4.89 g | FC1=C(C(=CC=C1)CO)O | C7H7FO2
reactant | sodium cyanide | 2.08 g | [C-]#N.[Na+]
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (3-Fluoro-2-hydroxyphenyl)acetonitrile | FC=1C(=C(C=CC1)CC#N)O | C8H6FNO
